US06399611B1
A suspension of 4.70 g of 6-(3,4-dimethoxy-phenyl)-2,3,4,5-tetrahydropyridazin-3-one (“A”) in 150 ml of THF is treated with 2.24 g of potassium tert-butoxide and stirred for 30 minutes. 4.32 g of 4-nitro-benzyl chloride are added thereto and the mixture is stirred at room temperature for 10 hours. The solvent is removed and the residue is worked up in the customary manner. 2-(4-Nitrobenzyl)-6-(3,4-dimethoxy-phenyl)-2,3,4,5-tetrahydropyridazin -3-one, m.p. 126°, is obtained.

reactant | 6-(3,4-dimethoxy-phenyl)-2,3,4,5-tetrahydropyridazin-3-one | 4.70 g | COC=1C=C(C=CC1OC)C=1CCC(NN1)=O | C12H14N2O3
reactant | potassium tert-butoxide | 2.24 g | CC(C)([O-])C.[K+]
reactant | 4-nitro-benzyl chloride | 4.32 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(4-Nitrobenzyl)-6-(3,4-dimethoxy-phenyl)-2,3,4,5-tetrahydropyridazin -3-one | [N+](=O)([O-])C1=CC=C(CN2N=C(CCC2=O)C2=CC(=C(C=C2)OC)OC)C=C1 | C19H19N3O5
